US06887896B1
6-Bromo-4-tert-butyl-7-ethoxy-1,1-dimethyl-1,2-dihydronaphthalene (Compound A-6)
To 7-bromo-6-ethoxy-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one (Compound A-4, 2.0 g, 6.73 mmol) in THF (20 mL), ether (20 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1])-pyrimidinone (8 mL) at −30° C. was added a solution of tert-butylmagnesium bromide (2M in ether, 13.5 mL, 27 mmol). The reaction was allowed to warm to room temperature over 5 h. The reaction was quenched with ice water and extracted with ether. The organic layer was washed successively with water, brine, dried over Na2SO4, and concentrated in vacuo. The crude material was then dissolved in methanol (20 mL). After catalytic amount of p-toluenesulfonic acid was added, the reaction was stirred at 50° C. for 2 h. The solvent was removed in vacuo. The residue was purified by column chromatography (silica gel, 1% ethyl acetate in hexane) to afford the title compound as a pale yellow oil

reactant | 7-bromo-6-ethoxy-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one | 6.73 mmol, 2.0 g | BrC1=C(C=C2C(CCC(C2=C1)=O)(C)C)OCC | C14H17BrO2
reactant | pyrimidinone | 8 mL | N1C(N=CC=C1)=O | C4H4N2O
reactant | tert-butylmagnesium bromide | 27 mmol, 2M, 13.5 mL | C(C)(C)(C)[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 6-Bromo-4-tert-butyl-7-ethoxy-1,1-dimethyl-1,2-dihydronaphthalene | BrC=1C=C2C(=CCC(C2=CC1OCC)(C)C)C(C)(C)C | C18H25BrO
